US04206137
(a) cis-2-[1-Oxo-2-propenyl]cyclobutanecarboxylic acid
A mixture of aluminum chloride (66.7 g., 0.5 M), 1,2-cyclobutanedicarboxylic anhydride (31.5 g., 0.24 M) and 1,2-dichloroethane (1 liter) in a 2 liter 3-neck flask equipped with a gas inlet tube, a mechanical stirrer and a drying tube is stirred rapidly and ethylene is bubbled in for 4.5 hours. This mixture is poured into 900 ml. 5% hydrochloric acid and ice. The layers are separated and the organic layer is washed with water and taken to dryness in vacuo. The aqueous layer is extracted with ether (300 ml.). The extract is washed with water and combined with material from the original organic layer and taken to dryness. The residue is heated with 150 ml. of 10% potassium carbonate on a steam bath for fifteen minutes. After cooling the mixture is extracted three times with ether. The aqueous portion is acidified and the product (1.5 g.) is extracted into ether. The original ether extracts are combined and extracted with 150 ml. of 10% potassium carbonate solution. This aqueous layer is then acidified with hydrochloric acid and the product cis-2-[1-oxo-2-propenyl]cyclobutanecarboxylic acid (24.3 g.) is extracted into ether. Both samples (25.8 g., 67%) crystallize on standing.

reactant | aluminum chloride | 0.5 M, 66.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,2-cyclobutanedicarboxylic anhydride | 0.24 M, 31.5 g | C12C(CC1)C(=O)OC2=O | C6H6O3
reactant | 1,2-dichloroethane | 1 liter | ClCCCl | C2H4Cl2
product | cis-2-[1-Oxo-2-propenyl]cyclobutanecarboxylic acid | O=C(C=C)[C@@H]1[C@@H](CC1)C(=O)O | C8H10O3
